US07723368B2
Step 2) {3-[3-(4-Difluoromethoxy-phenylethynyl)-phenyl]-cyclobutylidene}-acetic acid ethyl ester
In a CEM snap top microwave vial were combined 1-Difluoromethoxy-4-ethynyl-benzene (1.48 g, 8.80 mmol), [3-(3-Bromo-phenyl)-cyclobutylidene]-acetic acid ethyl ester (2.00 g, 6.78 mmol), Copper iodide (232 mg, 0.131 mmol), Tetrakis(triphenylphosphine)palladium (470 mg, 1155.56 g/mol, 0.046 mmol), and triethylamine (20 g, 198 mmol). The capped vial was placed in a CEM Explorer microwave instrument and irradiated for 30 minutes at 80° C. The crude reaction mixture and dichloromethane washings were poured directly onto silica gel. Purification by column chromatography (isocratic; 5% EtOAc in hexanes) afforded an oil 1.42 g (55%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.20 (t, J=7.2 Hz, 3H) 2.94-3.03 (m, 1H) 3.06-3.16 (m, 1H) 3.19-3.28 (m, 1H) 3.49-3.60 (m, 1H) 3.62-3.72 (m, 1H) 4.08 (q, J=7.2 Hz, 2H) 5.68-5.78 (m, 1H) 7.06-7.32 (m, 3H) 7.39 (dd, J=8.8, 3.7 Hz, 3H) 7.46-7.52 (m, 1H) 7.62 (d, J=8.8 Hz, 2H); MS (ES) m/z 383.1 [M+H]+.

reactant | 1-Difluoromethoxy-4-ethynyl-benzene | 8.80 mmol, 1.48 g | FC(OC1=CC=C(C=C1)C#C)F | C9H6F2O
reactant | [3-(3-Bromo-phenyl)-cyclobutylidene]-acetic acid ethyl ester | 6.78 mmol, 2.00 g | C(C)OC(C=C1CC(C1)C1=CC(=CC=C1)Br)=O | C14H15BrO2
reactant | triethylamine | 198 mmol, 20 g | C(C)N(CC)CC | C6H15N
catalyst | Copper iodide | 0.131 mmol, 232 mg | [Cu](I)I
catalyst | Tetrakis(triphenylphosphine)palladium | 0.046 mmol, 470 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dichloromethane | ClCCl | CH2Cl2
product | {3-[3-(4-Difluoromethoxy-phenylethynyl)-phenyl]-cyclobutylidene}-acetic acid ethyl ester | 1.42 g, 55% | C(C)OC(C=C1CC(C1)C1=CC(=CC=C1)C#CC1=CC=C(C=C1)OC(F)F)=O | C23H20F2O3
